US04746352
using isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-ethyl-1-propenyl]ureido}-benzoate with sodium isopropylate in an isopropanol/dimethylformamide mixture there is obtained isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-4-ethyl-5-methyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate, m.p. 192°-194° C.,

reactant | isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-ethyl-1-propenyl]ureido}-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)NC(=C(C)C(=O)OCC)CC | C19H24ClFN2O5
reactant | sodium | [Na] | Na
solvent | isopropanol dimethylformamide | C(C)(C)O.CN(C=O)C
product | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-4-ethyl-5-methyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC(=C(C1=O)C)CC)=O | C17H18ClFN2O4
